US04945099
4-[(4-Acetyl-2-ethyl-5-hydroxyphenoxy)methyl]-2-hydroxybenzoic acid, ethyl ester
A mixture of 0.75 g of 2,4-dihydroxy-5-ethylacetophenone, 1.23 g of ethyl 2-acetoxy-4-bromomethylbenzoate, 0.57 g of potassium carbonate, and a catalytic amount of potassium iodide were heated at reflux in methyl ethyl ketone overnight. The hot mixture was filtered and the filtrate concentrated to dryness. Crystallization of the residue from ethyl acetate/hexane provided 130 mg of the desired title product, m.p. 145°-146° C.

reactant | ethyl 2-acetoxy-4-bromomethylbenzoate | 1.23 g | C(C)(=O)OC1=C(C(=O)OCC)C=CC(=C1)CBr | C12H13BrO4
reactant | potassium carbonate | 0.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 4-[(4-Acetyl-2-ethyl-5-hydroxyphenoxy)methyl]-2-hydroxybenzoic acid, ethyl ester | 130 mg | C(C)(=O)C1=CC(=C(OCC2=CC(=C(C(=O)OCC)C=C2)O)C=C1O)CC | C20H22O6
